US05384330
A solution of 15.3 g (100 mmol) 2-nitro-p-phenylenediamine and 13.6 g (110 mmol) 4-fluorobenzaldehyde in 400 ml xylene is heated under reflux in the presence of 0.5 g of an acid ion exchanger (for example Nafion) for 3 hours in a water separator. Insoluble constituents are filtered out hot and the mixture is allowed to stand overnight at room temperature. An orange-yellow solid crystallizes out. This solid is suction filtered, washed with a little toluene and dried in a vacuum. 22.0 g (85% of theory) 2-amino-5-(4-fluorobenzylideneamino)-nitrobenzene is obtained as orange-yellow crystals.

reactant | 2-nitro-p-phenylenediamine | 100 mmol, 15.3 g | [N+](=O)([O-])C1=C(C=CC(=C1)N)N | C6H7N3O2
reactant | 4-fluorobenzaldehyde | 110 mmol, 13.6 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | water | O | H2O
solvent | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-amino-5-(4-fluorobenzylideneamino)-nitrobenzene | 22.0 g, 85% | NC1=C(C=C(C=C1)N=CC1=CC=C(C=C1)F)[N+](=O)[O-] | C13H10FN3O2
